US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(2-fluoro-5-(trifluoromethyl)phenyl)imidazolidin-2-one
The compound was synthesized from 2-fluoro-5-(trifluoromethyl)benzaldehyde (0.565 mL, 4 mmol), 5-aminobenzimidazole (0.585 g, 4.4 mmol), TMSCN (0.5 g, 4 mmol), TEA (0.669 mL, 4.8 mmol), PdC (10%, 0.02 g), di(1H-imidazol-1-yl)methanone (0.778 g, 4.8 mmol) as described in method 2.

reactant | 2-fluoro-5-(trifluoromethyl)benzaldehyde | 4 mmol, 0.565 mL | FC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4F4O
reactant | 5-aminobenzimidazole | 4.4 mmol, 0.585 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | TMSCN | 4 mmol, 0.5 g | [Si](C)(C)(C)C#N | C4H9NSi
reactant | di(1H-imidazol-1-yl)methanone | 4.8 mmol, 0.778 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(2-fluoro-5-(trifluoromethyl)phenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=C(C=CC(=C2)C(F)(F)F)F)=O | C17H12F4N4O
